Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
EGD ___
 
History of Present Illness:
___ male with PMHx of HTN, HLD, CAD w/ MI in ___ s/p 
DES to LAD and HCV s/p interferon over ___ years ago presenting 
to the ED for evaluation of dark black stool. The patient 
reports that about 2 weeks ago he started to notice that he 
would get lightheaded when he stood up. He also had associated 
SOB, fatigue, and felt that his hands and feet were getting 
cooler than usual. On ___ afternoon he noted a dark black 
bowel movement and on ___ was dizzy at cardiac rehab. This 
morning he woke up with nausea, fevers and chills and had a 
episode of clear emesis. He has never had anything like this 
before and has no history of stomach ulcers. He otherwise denies 
chest pain, headache, hematemesis, hemoptysis, alcohol use or 
NSAID use recently except for his daily baby aspirin. 
Of note he was on Coumadin after his MI in ___ but that was 
stopped ___. He is now on Ticagrelor and aspirin 81 daily. 
  
He has no history of GI bleed but does have a family history of 
colon cancer. His last colonoscopy was ___ years ago and was 
unremarkable. Of note, patient measured his blood pressure today 
and was systolics in the ___ which is unusual for him he is 
usually in the 110-120s. His resting pulse is usually also in 
the ___ and is currently much higher. 

 
In ED initial VS:  97.9, 95, 111/72, 16, 100% RA  
Exam: Pale in color, guaiac positive dark black stool, no 
abdominal tenderness
Patient was given:  
- ___ 10:20 1 liter IVF  NS    
- ___ 10:55 IV BOLUS Pantoprazole 80 mg   
- ___ 10:55 IV DRIP Pantoprazole 8 mg/hr 
- 2 units PRBCs 
Consults:  ___, ___ in ICU
VS prior to transfer:  98.3, 68, 114/62, 16, 100% RA 
 
 
On arrival to the MICU, the patient appears well and his vitals 
are stable, he has no complaints and feels better after 2 units 
of PRBCs in the ED. 
 
Past Medical History:
- HTN
- HLD
- CAD s/p PCI (DES to LAD on ___ 
- HCV s/p interferon 
 
Social History:
___
Family History:
- Father with pacemaker and colon CA
- Mother with breast CA
- No family history of early MI, cardiomyopathies, or 
sudden cardiac death. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: afebrile, 159/70, 89, 19, 100% RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, obese, non-distended, mild tenderness to deep 
palpation of the LLQ
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  no rash
NEURO:  CN grossly intact, moving all extremities

DISCHARGE PHYSICAL EXAM:
Vitals:  98.5, 102/64, 70, 18 99% RA  
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal  
 

 
Pertinent Results:
ADMISSION / PERTINENT LABS:
=================================

___ 10:05AM BLOOD WBC-7.4 RBC-2.34*# Hgb-7.2*# Hct-21.3*# 
MCV-91 MCH-30.8 MCHC-33.8 RDW-14.3 RDWSD-46.9* Plt ___
___ 10:05AM BLOOD Neuts-77.4* Lymphs-15.6* Monos-6.1 
Eos-0.3* Baso-0.1 Im ___ AbsNeut-5.71# AbsLymp-1.15* 
AbsMono-0.45 AbsEos-0.02* AbsBaso-0.01
___ 10:05AM BLOOD ___ PTT-29.4 ___
___ 10:05AM BLOOD Glucose-155* UreaN-48* Creat-0.6 Na-131* 
K-4.1 Cl-99 HCO3-22 AnGap-14
___ 04:15AM BLOOD ALT-30 AST-26 LD(LDH)-116 AlkPhos-46 
TotBili-0.7
___ 04:24PM BLOOD CK-MB-2 cTropnT-<0.01
___ 04:15AM BLOOD CK-MB-4 cTropnT-<0.01
___ 10:05AM BLOOD Calcium-8.5 Phos-2.5* Mg-1.6
___ 04:32PM BLOOD ___ pO2-22* pCO2-41 pH-7.38 
calTCO2-25 Base XS--1
___ 04:32PM BLOOD Lactate-1.1 K-4.1

CBC TREND
=============
___ 10:05AM BLOOD WBC-7.4 RBC-2.34*# Hgb-7.2*# Hct-21.3*# 
MCV-91 MCH-30.8 MCHC-33.8 RDW-14.3 RDWSD-46.9* Plt ___
___ 04:24PM BLOOD WBC-7.6 RBC-2.75* Hgb-8.7* Hct-25.3* 
MCV-92 MCH-31.6 MCHC-34.4 RDW-14.7 RDWSD-48.9* Plt ___
___ 08:50PM BLOOD WBC-8.1 RBC-2.62* Hgb-8.4* Hct-24.1* 
MCV-92 MCH-32.1* MCHC-34.9 RDW-14.6 RDWSD-48.2* Plt ___
___ 04:15AM BLOOD WBC-8.6 RBC-2.73* Hgb-8.6* Hct-25.2* 
MCV-92 MCH-31.5 MCHC-34.1 RDW-14.8 RDWSD-49.1* Plt ___
___ 03:16PM BLOOD WBC-6.6 RBC-2.48* Hgb-7.7* Hct-23.2* 
MCV-94 MCH-31.0 MCHC-33.2 RDW-14.8 RDWSD-50.4* Plt ___
___ 07:13AM BLOOD WBC-6.3 RBC-2.50* Hgb-8.0* Hct-23.7* 
MCV-95 MCH-32.0 MCHC-33.8 RDW-15.3 RDWSD-51.5* Plt ___

URINE STUDIES:
======================
___ 11:15AM URINE Color-Straw Appear-Clear Sp ___
___ 11:15AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

IMAGING:
==============
CXR ___
FINDINGS:  
Endotracheal tube tip is 4 cm above carina.  Shallow inspiration 
accentuates 
heart size.  Normal pulmonary vascularity.  No edema.  Minimal 
basilar 
atelectasis.  No consolidations.  No sizable effusion.  No 
pneumothorax. 
IMPRESSION:  
Endotracheal tube tip in good position. 
Minimal basilar opacities, likely atelectasis. 

EGD ___
Findings: 
Esophagus: Normal esophagus. 
Stomach:  
 Contents: Red blood was seen in the antrum.  
Duodenum:  
 Mucosa: Localized erythema and erosions of the mucosa were 
noted in the duodenal bulb compatible with erosive duodenitis.  
 Excavated Lesions A single cratered 15 mm ulcer with overlying 
clot was found in the duodenal bulb. Additional findings include 
heaped-up margins. 3 10 cc.Epinephrine ___ injections were 
applied for hemostasis with success. Two endoclips were 
successfully applied for the purpose of hemostasis.  
Impression: Blood in the antrum
Erythema and erosions in the duodenal bulb compatible with 
erosive duodenitis
Ulcer in the duodenal bulb (injection, endoclip)
Otherwise normal EGD to third part of the duodenum 
Recommendations: GI consult service to discuss with inpatient 
primary team.
Continue max dose twice daily PPI
Repeat EGD in 12 weeks
Send H. Pylori stool antigen and treat if positive 

 
Brief Hospital Course:
___ male with PMHx of HTN, HLD, CAD w/ MI in ___ s/p 
DES to LAD and HCV s/p interferon over ___ years ago who 
presented to the ED for evaluation of dark black stool. 

# Duodenal ulcer: Admission was preceded by about 2 weeks of 
lightheadedness with associated SOB, one day of dark bloody 
stool, and one day of dizziness. He continued on asa and 
ticagrelor during this time. In the ED hgb was 7.2, stool guiac 
positive, and he was given 2 U PRBCs and started on pantoprazole 
IV. Transferred to MICU where he underwent EGD which showed: 
- Blood in the antrum
- Erythema and erosions in the duodenal bulb compatible with 
erosive duodenitis
- Ulcer in the duodenal bulb (injection, endoclip)
He had no further bleeding after EGD, and diet was advanced 
prior to transfer to the floor. His home anticoagulation was 
restarted. He was transitioned to PO pantoprazole 40 mg BID.

Chronic issues: 

#CAD  
 - cont home ASA, ticagrelor, atorva 

#HTN  
 - cont home lisinopril and carvedilol

TRANSITIONAL ISSUES:
-Discharge hgb: 8.0; repeat at next appointment. 
-H pylori pending at discharge, to be followed up by PCP.
-Needs repeat EGD at 12 weeks as there was no clear trigger for 
his bleed, no biopsies taken, and patient was over age ___.
-Continue 40 pantoprazole BID at least up to follow up with GI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Carvedilol 3.125 mg PO BID 
3. Atorvastatin 80 mg PO QPM 
4. Multivitamins 1 TAB PO DAILY 
5. TiCAGRELOR 90 mg PO BID 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Carvedilol 3.125 mg PO BID  
5.  Lisinopril 10 mg PO DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  TiCAGRELOR 90 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
duodenal ulcer
upper GI bleed

SECONDARY DIAGNOSES
coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ because of bleeding in your stool. We 
found that you had a bleeding ulcer in your small intestine. You 
underwent endoscopy and the ulcer was clipped, and you had no 
more episodes of bleeding. 

When you leave you will need to take the medication pantoprazole 
twice per day until you follow up with GI. You will need a 
repeat endoscopy in 12 weeks. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

It was a pleasure to care for you,
Your ___ Team
 
Followup Instructions:
___